US09227955B2
Preparation of N-(3-Chlorophenyl)-2-(1-(2-hydroxyethyl)-2,2,6,6-tetramethylpiperidin-4-ylamino)nicotinamide [242]
A solution of N-(3-chlorophenyl)-2-(2,2,6,6-tetramethylpiperidin-4-ylamino)nicotinamide (330 mg, 1 mmol, 1 eq), 2-bromoethanol (1.2 mmol), and anhydrous potassium carbonate (1.2 mmol) in 5 ml of acetonitrile was stirred for 18 hrs under reflux. The reaction mixture was cooled to a room temperature and filtered. The filtrate was concentrated in a reduced pressure. Silica gel column chromatography (mobile phase: 10 (v/v) % methanol in chloroform) afforded the title compound. Yield: 37.1% 1H NMR (CDCl3) δ 8.22 (d, 1H), 7.79 (d, 1H), 7.69 (d, 1H), 7.65 (s, 1H), 7.37 (d, 1H), 7.27 (t, 1H), 7.10 (d, 1H), 6.51-6.45 (m, 1H), 4.64-4.45 (m, 1H), 3.88 (t, 2H), 3.49 (t, 2H), 2.08-1.96 (m, 3H), 1.28 (s, 6H), 1.13 (s, 6H), 1.0 (t, 2H) ppm.

reactant | N-(3-chlorophenyl)-2-(2,2,6,6-tetramethylpiperidin-4-ylamino)nicotinamide | 1 mmol, 330 mg, 1 eq | ClC=1C=C(C=CC1)NC(C1=C(N=CC=C1)NC1CC(NC(C1)(C)C)(C)C)=O | C21H27ClN4O
reactant | 2-bromoethanol | 1.2 mmol | BrCCO | C2H5BrO
reactant | potassium carbonate | 1.2 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-(3-Chlorophenyl)-2-(1-(2-hydroxyethyl)-2,2,6,6-tetramethylpiperidin-4-ylamino)nicotinamide | Yield: 37.1% | ClC=1C=C(C=CC1)NC(C1=C(N=CC=C1)NC1CC(N(C(C1)(C)C)CCO)(C)C)=O | C23H31ClN4O2
